US04259489
2,3-Dicyano-5-chloro-6-phenylpyrazine (12.03 g; 0.05 mole) was dissolved in 1,400 ml of toluene. The solution was cooled to 5° to 10° C., and with stirring, 3.25 g (0.055 mole) of n-propylamine was added dropwise over the period of 10 minutes. Subsequently, 55 ml of a 1 N aqueous solution of sodium hydroxide was added dropwise over the period of 10 minutes. The mixture was then stirred at 5° to 10° C. for 30 minutes. After the reaction, the reaction mixture was separated into two layers. The toluene layer was concentrated under reduced pressure to obtain a solid. The solid was washed twice with 200 ml of water, dried under reduced pressure, and recrystallized successively from toluene and ethanol to afford 12.1 g (yield 92%) of 2,3-dicyano-5-n-propylamino-6-phenylpyrazine.

reactant | 2,3-Dicyano-5-chloro-6-phenylpyrazine | 0.05 mole, 12.03 g | C(#N)C1=NC(=C(N=C1C#N)Cl)C1=CC=CC=C1 | C12H5ClN4
reactant | n-propylamine | 0.055 mole, 3.25 g | C(CC)N | C3H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 1,400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dicyano-5-n-propylamino-6-phenylpyrazine | 12.1 g, yield 92% | C(#N)C1=NC(=C(N=C1C#N)NCCC)C1=CC=CC=C1 | C15H13N5
